US05187176
1-(2-Chloro-6-cyano-4-trifluoromethylphenyl)-5-methyl-4-trifluoromethylpyrimidin-6-one was prepared by the reaction of the product of Preparation 2 of EP 0 398 499 (i.e., 3-chloro-4-fluoro-5-cyano-trifluoromethylbenzene, produced as follows: A solution of 3-amino-5-chloro-4-fluorotrifluoromethylbenzene (3 g) in acetonitrile (10 ml) was added dropwise to a stirred suspension of copper (I) cyanide (1.26 g) in dry acetonitrile (50 ml) whilst the reaction temperature was maintained at 0° C. After the addition was complete, the reaction mixture was allowed to warm to the ambient temperature (about 23° C.) and left overnight. The reaction mixture was poured into water, extracted with diethyl ether, dried over anhydrous magnesium sulphate and filtered. Evaporation of the solvent, under reduced pressure, gave a brown oil, which was flushed through a plug of silica gel using petroleum ether (boiling range 60°-80° C.) containing diethyl ether (20% by volume) as eluent. After removal of the solvent, under reduced pressure, Kugelrohr distillation of the residue gave two fractions, the first of which (boiling point 110° C. at 15 mmHg) was predominantly composed of 3-chloro-4-fluoro-5-cyano-trifluoromethylbenzene and 5-methyl-4-trifluoromethylpyrimidin-6-one. The product had a melting point of 154.1°-154.9° C.

reactant | 3-chloro-4-fluoro-5-cyano-trifluoromethylbenzene | ClC=1C=C(C=C(C1F)C#N)C(F)(F)F | C8H2ClF4N
reactant | 3-amino-5-chloro-4-fluorotrifluoromethylbenzene | 3 g | NC=1C=C(C=C(C1F)Cl)C(F)(F)F | C7H4ClF4N
reactant | copper (I) cyanide | 1.26 g | [Cu]C#N
reactant | 5-methyl-4-trifluoromethylpyrimidin-6-one | CC1=C(N=CNC1=O)C(F)(F)F | C6H5F3N2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(2-Chloro-6-cyano-4-trifluoromethylphenyl)-5-methyl-4-trifluoromethylpyrimidin-6-one | ClC1=C(C(=CC(=C1)C(F)(F)F)C#N)N1C=NC(=C(C1=O)C)C(F)(F)F | C14H6ClF6N3O
